US07846960B2
{4-[4-Cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-carbamic Acid Tert-butyl Ester
Tri-n-butylphosphine (1.9 mL, 7.5 mmol) and azodicarboxylic acid dipiperidine (1.90 g, 7.54 mmol) are added to a mixture of [4-cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-methanol (1.50 g, 5.03 mmol), (4-hydroxy-2-methyl-phenyl)-carbamic acid tert-butyl ester (1.35 g, 6.03 mmol) and toluene at room temperature. After 1 h, additional tri-n-butylphosphine (0.6 mL) is added and the mixture is stirred for 2 h. The mixture is concentrated and the residue is purified by flash chromatography (20 to 50% EtOAc/heptane) to give the title compound (1.92 g, 76%). LC-ES/MS m/e 504.2 (M+1).

reactant | Tri-n-butylphosphine | 7.5 mmol, 1.9 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | azodicarboxylic acid dipiperidine | 7.54 mmol, 1.90 g | N1CCCCC1.N1CCCCC1.N(=NC(=O)O)C(=O)O
reactant | [4-cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-methanol | 5.03 mmol, 1.50 g | C1(CC1)C1=C(N(N=C1)C1=C(C=CC=C1)OC(F)(F)F)CO | C14H13F3N2O2
reactant | (4-hydroxy-2-methyl-phenyl)-carbamic acid tert-butyl ester | 6.03 mmol, 1.35 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)O)C)=O | C12H17NO3
reactant | tri-n-butylphosphine | 0.6 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | {4-[4-Cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-carbamic Acid Tert-butyl Ester | 1.92 g, 76% | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OCC=1N(N=CC1C1CC1)C1=C(C=CC=C1)OC(F)(F)F)C)=O | C26H28F3N3O4
